US05780642
3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1-ethyl-1-phenylpropyl)propylamine (1.0 g) was reacted with benzoyl chloride (0.38 ml) in a similar manner to Example 55 to give N-(2-{1-[3-(1-ethyl-1-phenylpropylamino)propyl]imidazol-4-yl}ethyl)benzamide, as an oil.

reactant | 3-[4-(2-Aminoethyl)imidazol-1-yl]-N-(1-ethyl-1-phenylpropyl)propylamine | 1.0 g | NCCC=1N=CN(C1)CCCNC(CC)(C1=CC=CC=C1)CC | C19H30N4
reactant | benzoyl chloride | 0.38 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(2-{1-[3-(1-ethyl-1-phenylpropylamino)propyl]imidazol-4-yl}ethyl)benzamide | C(C)C(CC)(C1=CC=CC=C1)NCCCN1C=NC(=C1)CCNC(C1=CC=CC=C1)=O | C26H34N4O
